US08227491B2
b) 5-Bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
5-Bromo-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (50.0 g, 0.166 mol) was dissolved in DMF (600 mL). To the solution was added TBTU (58.9 g, 0.183 mol), N,N-diisopropylethyl amine (142.6 mL, 0.83 mol) and (1R,2R)-2-amino-cyclohexanol (21.1 g, 0.183 mol). The reaction mixture was stirred for 3 h at room temperature. The solvent was evaporated in vacuo, the residue was dissolved in a mixture of ethyl acetate (1200 mL) and THF (300 mL). The solution was washed twice with water (700 mL) and the water phases were extracted with ethyl acetate (600 mL). Organic phases were pooled, dried with MgSO4 and concentrated to about 900 mL. The product precipitated upon stirring and cooling to 0° C. Filtration, washing with ethyl acetate/n-heptane (1:1) and drying in vacuo gave the title compound (53.1 g) as a white solid; MS (ISP) 397, 399 (M)+.

reactant | 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | 0.166 mol, 50.0 g | BrC=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C8H5BrF3NO3
reactant | TBTU | 0.183 mol, 58.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 0.83 mol, 142.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1R,2R)-2-amino-cyclohexanol | 0.183 mol, 21.1 g | N[C@H]1[C@@H](CCCC1)O | C6H13NO
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | 53.1 g | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC(F)(F)F | C14H16BrF3N2O3
